US06673804B1
(±)-α-(4-Phenoxybenzensulfonylamino)-γ-butyrolactone
Triethylamine (20.0 ml, 143.9 mmol) was added to a suspension of α-amino-γ-butyrolactone hydrobromide (7.28 g, 40.0 mmol) in dichloromethane (80 ml), and then 20 minutes were spent in adding dropwise a solution of 4-phenoxybenzenesulfonyl chloride (11.0 g, 40.9 mmol) in dichloromethane (40 ml) to the mixture with ice-cooling. After this mixture was stirred at room temperature for 2 hours, the solvent of the reaction mixture was evaporated under reduced pressure. The residue was acidified with water and hydrochloric acid (1N), and then extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=2/1 as the eluant to give the title compound (8.74 g, yield 73%) as a white powder.

reactant | Triethylamine | 143.9 mmol, 20.0 ml | C(C)N(CC)CC | C6H15N
reactant | α-amino-γ-butyrolactone hydrobromide | 40.0 mmol, 7.28 g | Br.NC1C(=O)OCC1
reactant | 4-phenoxybenzenesulfonyl chloride | 40.9 mmol, 11.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (±)-α-(4-Phenoxybenzensulfonylamino)-γ-butyrolactone | 8.74 g, yield 73% | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)NC1C(=O)OCC1 | C16H15NO5S
